US07030116B2
A solution of (R)-4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid (200 mg, 0.778 mmol) in dimethylformamide (10 ml) was treated successively with (S)-2-Amino-1-(5-ethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol; compound with trifluoro-acetic acid (233 mg, 0.779 mmol), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (296 mg, 0.779 mmol) and diisopropylethylamine (0.271 ml, 1.559 mmol). Reaction stirred at room temperature overnight. Solvent evaporated under reduced pressure. Residue taken up in ethyl acetate and washed with 1N hydrochloric acid, saturated aqueous bicarbonate solution and water, dried over Na2SO4 and solvent evaporated under reduced pressure to give (R)-4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid {(S)-1-[(5-ethyl-1,2,4-oxadiazol-3-yl)-hydroxy-methyl]-propyl}-amide as a yellow solid (277 mg).

reactant | (R)-4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid | 0.778 mmol, 200 mg | CC(C[C@@H](C(=O)O)CC(=O)N1CCOCC1)(C)C | C13H23NO4
reactant | (S)-2-Amino-1-(5-ethyl-1,2,4-oxadiazol-3-yl)-butan-1-ol; compound with trifluoro-acetic acid | 0.779 mmol, 233 mg | FC(C(=O)O)(F)F.NC([C@H](O)C1=NOC(=N1)CC)CC
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.779 mmol, 296 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | diisopropylethylamine | 1.559 mmol, 0.271 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (R)-4,4-Dimethyl-2-(2-morpholin-4-yl-2-oxo-ethyl)-pentanoic acid {(S)-1-[(5-ethyl-1,2,4-oxadiazol-3-yl)-hydroxy-methyl]-propyl}-amide | 277 mg | C(C)C1=NC(=NO1)C([C@H](CC)NC([C@H](CC(C)(C)C)CC(=O)N1CCOCC1)=O)O | C21H36N4O5
